US06251926B1
Thionyl chloride (0.597 ml) was added dropwise to a mixture of 4-(5-chloroimidazo[1,2-a]pyridine-2-ylmethoxy)benzylalcohol (1.97 g), triethylamine (1.15 ml) and toluene (50 ml) at 0° C. After stirring for 1 hour, water was added to the reaction mixture and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The remaining crystals were recrystallized from ethyl acetate-hexane to obtain 5-chloro-2-(4-chloromethylphenoxymethyl)imidazo[1,2-a]pyridine (1.10 g, yield 52%) as colorless crystals. m.p. 114-115° C.

reactant | Thionyl chloride | 0.597 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 4-(5-chloroimidazo[1,2-a]pyridine-2-ylmethoxy)benzylalcohol | 1.97 g | ClC1=CC=CC=2N1C=C(N2)COC2=CC=C(CO)C=C2 | C15H13ClN2O2
reactant | triethylamine | 1.15 ml | C(C)N(CC)CC | C6H15N
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 5-chloro-2-(4-chloromethylphenoxymethyl)imidazo[1,2-a]pyridine | 1.10 g, yield 52% | ClC1=CC=CC=2N1C=C(N2)COC2=CC=C(C=C2)CCl | C15H12Cl2N2O
